US05545669
a) 2-(2-Nitro-4-trifluoromethylphenoxy)phenylacetic acid
A mixture of 2-hydroxyphenylacetic acid (1.52 g, 0.01 mol), 4-fluoro-3-nitrobenzotrifluoride (2.09 g, 0.01 mol), potassium carbonate (2.76 g, 0.02 mol) in dimethylformamide (10 mL) was heated at 95° C. 16 h. The solvent was evaporated, the residue was acidified with dilute HCl, extracted with EtOAc, dried over anhydrous sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography (silica gel, ethyl acetate/hexane/formic acid). Recrystallization from EtOAc/hexane gave the title compound; mp 165°-167° C.

reactant | 2-hydroxyphenylacetic acid | 0.01 mol, 1.52 g | OC1=C(C=CC=C1)CC(=O)O | C8H8O3
reactant | 4-fluoro-3-nitrobenzotrifluoride | 0.01 mol, 2.09 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | potassium carbonate | 0.02 mol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(2-Nitro-4-trifluoromethylphenoxy)phenylacetic acid | [N+](=O)([O-])C1=C(OC2=C(C=CC=C2)CC(=O)O)C=CC(=C1)C(F)(F)F | C15H10F3NO5
